US07323475B2
b) 2-(S)-[(7-Benzenesulfonyl-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid
Prepared in analogy to Example A-63 g) from 7-benzenesulfonyl-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester and L-alanine. MS-(−)-ion: M−1=399.1.

reactant | 7-benzenesulfonyl-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)S(=O)(=O)C1=CC=CC=C1 | C20H19NO5S
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | 2-(S)-[(7-Benzenesulfonyl-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(=C(N=CC2=C1)C(=O)N[C@H](C(=O)O)C)O | C19H16N2O6S
